US04331668
A solution of sodium nitrite (41.3 g) in water was added slowly to a cooled solution of ethyl 2-valerylacetoacetate (118.7 g) in acetic acid (100 ml.), and the temperature was kept below 10°. Ice (100 g) was added, followed by acetic anhydride (105.0 g). Zinc dust (total 65.4 g) was added portionwise, keeping the temperature below 20° with stirring, until the reaction was complete. The mixture was allowed to stand overnight at room temperature, and it was then filtered. The solid was washed with chloroform, and the filtrate was extracted with chloroform. The chloroform extracts were washed with sodium carbonate solution and dried. The solvent was removed under vacuum, and the residue was purified by column chromatography (silica gel) eluting with petroleum ether (b.p. 60°-80°)/ethyl acetate, to yield ethyl-2-acetamido-3-oxoheptanoate, 13.5 g, which was used without further purification.

reactant | sodium nitrite | 41.3 g | N(=O)[O-].[Na+]
reactant | ethyl 2-valerylacetoacetate | 118.7 g | C(CCCC)(=O)C(C(=O)OCC)C(=O)C | C11H18O4
reactant | acetic anhydride | 105.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 65.4 g | [Zn] | Zn
product | ethyl-2-acetamido-3-oxoheptanoate | C(C)OC(C(C(CCCC)=O)NC(C)=O)=O | C11H19NO4
